US04560686
A mixture of 1.92 g (0.01 mol) of 1-(2-methoxyphenyl)-piperazine and 2.15 g (0.01 mol) of N-(3-chloropropyl)-4-fluorobenzamide was added to a mixture of toluene (20 ml) and triethylamine (2 ml) under agitation. The resulting mixture was gradually heated to the refluxing temperature at which the mixture was held for 5 hours. After completion of the reaction, the mixture was cooled and the precipitating salt was filtered off. The filtrate was extracted with 20 ml of benzene, and the extract was washed first with saturated aqueous sodium bicarbonate, then washed with water twice. By drying with anhydrous magnesium sulfate and subsequent concentration, 1-(2-methoxyphenyl)-4-[3-(4-fluorobenzoyl)aminopropyl]piperazine was produced as an oily substance. The oil was dissolved in methanol (30 ml) and the solution was saturated with hydrogen chloride gas. Upon concentration of the saturated solution, a crystal of the piperazine in hydrochloride form was obtained (2.9 g). m.p. 231.7° C. (recrystallized from ethanol).

reactant | 1-(2-methoxyphenyl)-piperazine | 0.01 mol, 1.92 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | N-(3-chloropropyl)-4-fluorobenzamide | 0.01 mol, 2.15 g | ClCCCNC(C1=CC=C(C=C1)F)=O | C10H11ClFNO
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | 1-(2-methoxyphenyl)-4-[3-(4-fluorobenzoyl)aminopropyl]piperazine | COC1=C(C=CC=C1)N1CCN(CC1)CCCNC(C1=CC=C(C=C1)F)=O | C21H26FN3O2
